US08633173B2
N(8)-(2-Methoxy-benzyl)-N(2)-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from 4-aminopyridine (36.47 mg, 0.3875 mmol) and (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methoxy-benzyl)-amine (99.9 mg, 0.346 mmol) in a manner analogous to Example 2d. Product isolated as a off-white foam (4.14 mg, 3.5%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 10.04 (s, 1H), 8.32 (m, 2H), 8.01 (d, J=6.7 Hz, 1H), 7.68 (m, 2H), 7.24 (m, 2H), 7.03 (d, J=8.2 Hz, 1H), 6.87 (t, J=14.9, 7.6 Hz, 1H), 6.80 (t, J=14.3, 7.6 Hz, 1H), 6.40-6.31 (m, 2H), 4.47 (d, J=5.8 Hz, 2H), 3.87 (s, 3H). MS=347 (MH)+.

reactant | 4-aminopyridine | 0.3875 mmol, 36.47 mg | NC1=CC=NC=C1 | C5H6N2
reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methoxy-benzyl)-amine | 0.346 mmol, 99.9 mg | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)OC)=N1 | C14H13ClN4O
product | N(8)-(2-Methoxy-benzyl)-N(2)-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | COC1=C(CNC=2C=3N(C=CC2)N=C(N3)NC3=CC=NC=C3)C=CC=C1 | C19H18N6O
